US05354755
Preparation of 1-(p-Chlorophenyl)-3-(3,4-dihydro-2-ethylthio-4-oxo-3-quinazolinyl)urea
A mixture of 3-amino-2-ethylthio-4-quinazolone (0.60 g, 2.71 mmol) and 4-chlorophenyl isocyanate (0.48 g, 3.13 mmol) in 1,2-dichloroethane is heated at reflux for 63 hours, cooled to 0° C. and filtered. The filter cake is washed with ether and dried to give the title product as a white solid, 0.84 g (83%) mp 234°-235° C.

reactant | 3-amino-2-ethylthio-4-quinazolone | 2.71 mmol, 0.60 g | NN1C(=NC2=CC=CC=C2C1=O)SCC | C10H11N3OS
reactant | 4-chlorophenyl isocyanate | 3.13 mmol, 0.48 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 1-(p-Chlorophenyl)-3-(3,4-dihydro-2-ethylthio-4-oxo-3-quinazolinyl)urea | ClC1=CC=C(C=C1)NC(=O)NN1C(=NC2=CC=CC=C2C1=O)SCC | C17H15ClN4O2S
